US05817693
c) (1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-(tetrazol-5-yl)indane
To THF (2.5 ml) at -78° C. under an argon atmosphere was added aluminum chloride (90 mg, 0.67 mmol). After slowly warming to room temperature, sodium azide (130 mg, 2.2 mmol) was added, and the resulting mixture was heated at 70° C. for 5 min, then cooled to room temperature. To the reaction mixture was added a solution of (1RS,2SR,3SR)-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carbonitrile (125 mg, 0.34 mmol) in THF (2.5 ml). After heating at 70° C. overnight, thin layer chromatographic analysis of the reaction mixture indicated the presence of starting material, so additional Al(N3)3 was prepared as above (1.34 mmol) in THF. To this was added the reaction mixture, and heating at 70° C. was resumed for an additional 5 h. The mixture was partitioned between EtOAc and 3M HCl. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed successively with H2O and saturated aqueous NaCl and dried. The solvent was removed in vacuo, and the residue was crystallized from EtOAc/hexanes to afford the title compound (78 mg, 56%). A portion of this material was further purified by MPLC (LiChroprep RP-18, MeOH/H2O=60/40) and then recrystallized; m.p. 155°-157° C. (EtOAc/hexanes).

reactant | aluminum chloride | 0.67 mmol, 90 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium azide | 2.2 mmol, 130 mg | [N-]=[N+]=[N-].[Na+]
reactant | (1RS,2SR,3SR)-1-(4-methoxyphenyl)-3-(3,4-methylenedioxyphenyl)indane-2-carbonitrile | 0.34 mmol, 125 mg | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C#N | C24H19NO3
reactant | Al(N3)3 | [Al](N=[N+]=[N-])(N=[N+]=[N-])N=[N+]=[N-]
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
product | (1RS,2SR,3SR)-1-(4-Methoxyphenyl)-3-(3,4-methylenedioxyphenyl)-2-(tetrazol-5-yl)indane | 78 mg, 56% | COC1=CC=C(C=C1)C1C(C(C2=CC=CC=C12)C1=CC2=C(C=C1)OCO2)C2=NN=NN2 | C24H20N4O3
